US04305868
N-(2-hydroxyethyl)lauramide
To a solution of 24 g (0.4 mole) ethanolamine in 100 ml toluene was added 40 g (0.2) lauric acid at 50° C. The mixture was refluxed for 6 hours. Toluene was gradually removed to increase the final pot temperature to 140° C. The distillate was collected in a Stark & Dean trap. The toluene was removed by vacuum stripping and the residue was crystallized from n-hexane. The title compound (44 g) thus obtained melted at 80°-84° C.

reactant | ethanolamine | 0.4 mole, 24 g | C(O)CN | C2H7NO
reactant | lauric acid | 40 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-hydroxyethyl)lauramide | OCCNC(CCCCCCCCCCC)=O | C14H29NO2
